US06005116
(a) 3-(2-(N-tert-Butoxycarbonylamino)ethoxy)-5-(4-methoxyphenyl)isoxazole
3-Hydroxy-5-(4-methoxyphenyl)isoxazole (0.22 g) and 2-(N-tert-butoxycarbonylamino)ethanol (0.20 g) were subjected to reaction and post-treatment in a similar manner to that described in Example 9(a) to obtain the title compound (0.32 g, 84%) as a colorless powder.

reactant | 3-Hydroxy-5-(4-methoxyphenyl)isoxazole | 0.22 g | OC1=NOC(=C1)C1=CC=C(C=C1)OC | C10H9NO3
reactant | 2-(N-tert-butoxycarbonylamino)ethanol | 0.20 g | C(C)(C)(C)OC(=O)NCCO | C7H15NO3
product | 3-(2-(N-tert-Butoxycarbonylamino)ethoxy)-5-(4-methoxyphenyl)isoxazole | 0.32 g, 84% | C(C)(C)(C)OC(=O)NCCOC1=NOC(=C1)C1=CC=C(C=C1)OC | C17H22N2O5
